US04745115
5-Chloro-1-(2'-chlorophenyl)-1,4-dihydro-benz[g]isoquinol-3-one (Description 3) (4.5 g) was dissolved in dimethylcarbamyl chloride (25 ml) on an oil bath (bath temperature 160°-170° C. ) for 2 h. The mixture was cooled, evaporated under reduced pressure and partitioned between water (50 ml), 5M hydrochloric acid, ethyl acetate (25 ml) and chloroform (25 ml). The organic layer was separated and extracted with water (25 ml). The combined aqueous extracts were washed with ethyl acetate (2×25 ml) and basified with 10% sodium hydroxide solution. The oil so formed was extracted with ethyl acetate (2×100 ml) and the combined organic extracts dried over sodium sulphate. The solution was filtered and reduced to 100 ml under reduced pressure. Ethereal hydrogen chloride was added to precipitate the salt to give 5-Chloro-1-(2'-chlorophenyl)-3-dimethylamino-1,4-dihydro-benz[g]isoquinoline hydrochloride hemihydrate (0.85 g) m.p. 232°-234° C.

reactant | 5-Chloro-1-(2'-chlorophenyl)-1,4-dihydro-benz[g]isoquinol-3-one | 4.5 g | ClC1=C2CC(NC(C2=CC2=C1C=CC=C2)C2=C(C=CC=C2)Cl)=O | C19H13Cl2NO
reactant | dimethylcarbamyl chloride | 25 ml | CN(C(=O)Cl)C | C3H6ClNO
product | 5-Chloro-1-(2'-chlorophenyl)-3-dimethylamino-1,4-dihydro-benz[g]isoquinoline hydrochloride hemihydrate | 0.85 g | O.Cl.ClC1=C2CC(=NC(C2=CC2=C1C=CC=C2)C2=C(C=CC=C2)Cl)N(C)C.ClC2=C1CC(=NC(C1=CC1=C2C=CC=C1)C1=C(C=CC=C1)Cl)N(C)C.Cl | InChI=1S/2C21H18Cl2N2.2ClH.H2O/c2*1-25(2)19-12-16-17(11-13-7-3-4-8-14(13)20(16)23)21(24-19)15-9-5-6-10-18(15)22;;;/h2*3-11,21H,12H2,1-2H3;2*1H;1H2
